US09126940B2
Step B: Preparation of tert-butyl (1E,4E)-4-(benzyloxy(propyl)carbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate
The title compound was prepared by these procedures using (1E,4E)-2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylic acid and O-benzyl-N-propylhydroxylamine. Preparation of tert-butyl (1E,4E)-4-(propylcarbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate: A mixture of (1E,4E)-2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylic acid (200 mg, 0.42 mmol), HOBt (114 mg, 0.84 mmol), and EDCI (161 mg, 0.84 mmol) in DMF (5 mL) was stirred for 1 h at room temperature. To this mixture was added triethylamine (0.12 mL, 0.84 mmol) and propan-1-amine (0.043 mL, 0.53 mmol) at room temperature. The resulting solution was stirred for additional 2 h. The reaction mixture was diluted with EtOAc (5 mL) and washed with saturated aq NH4Cl. The aqueous layer was separated and extracted with EtOAc (3×5 mL). The combined organic layers were washed with brine (5 mL), saturated aq NaHCO3 (5 mL), and brine (5 mL). The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude tert-butyl (1E,4E)-4-(propylcarbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate that was used directly without further purification. Preparation of (1E,4E)-2-amino-N-propyl-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxamide: To a solution of tert-butyl (1E,4E)-4-(propylcarbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate (450 mg, 0.87 mmol) in CH2Cl2 (5 mL) was added 2,2,2-trifluoroacetic acid (1.36 mL, 17.4 mmol) at 0° C. The reaction mixture was warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated under reduced pressure to give the crude material that was diluted with CH2Cl2 (10 mL) and saturated aq NaHCO3 (15 mL) again. The resulting mixture was stirred for 30 min at room temperature. The aqueous layer was separated and extracted with CH2Cl2 (1×10 mL). The combined organic layers were washed with saturated aq NaHCO3 (2×10 mL) and brine (1×10 mL), dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material again that was purified by silica gel flash column chromatography (1 to 5% MeOH in CH2Cl2, gradient). 1H-NMR (400 MHz, CDCl3) d 7.67-7.71 (m, 2H), 7.60-7.63 (m, 2H), 7.53-7.55 (m, 1H), 7.29-7.39 (m, 8H), 4.84 (s, 2H), 3.74-3.81 (m, 2H), 3.62-3.71 (m, 2H), 3.48-3.54 (m, 2H), 2.82 (s, 2H), 1.87-2.01 (m, 4H), 1.74-1.84 (m, 2H), 0.96-1.02 (m, 3H); m/z (APCI-pos) M+1=523.2.

reactant | (1E,4E)-2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylic acid | C(C)(C)(C)OC(=O)N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C=C2)C(=O)N2CCCC2)\C(=O)O | C27H29N3O5
reactant | O-benzyl-N-propylhydroxylamine | C(C1=CC=CC=C1)ONCCC | C10H15NO
reactant | tert-butyl (1E,4E)-4-(propylcarbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate | C(CC)NC(=O)/C/1=C/C2=C(\N=C(/C1)\NC(OC(C)(C)C)=O)C=C(C=C2)C2=CC=C(C=C2)C(=O)N2CCCC2 | C30H36N4O4
reactant | (1E,4E)-2-(tert-butoxycarbonylamino)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylic acid | 0.42 mmol, 200 mg | C(C)(C)(C)OC(=O)N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C=C2)C(=O)N2CCCC2)\C(=O)O | C27H29N3O5
reactant | HOBt | 0.84 mmol, 114 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.84 mmol, 161 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 0.84 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | propan-1-amine | 0.53 mmol, 0.043 mL | C(CC)N | C3H9N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | tert-butyl (1E,4E)-4-(benzyloxy(propyl)carbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate | C(C1=CC=CC=C1)ON(C(=O)/C/1=C/C2=C(\N=C(/C1)\NC(OC(C)(C)C)=O)C=C(C=C2)C2=CC=C(C=C2)C(=O)N2CCCC2)CCC | C37H42N4O5
